US04983746
12.9 g of methyl (S)-3-hydroxytetradecanoate are dissolved in 50 ml of DMF under argon 9.0 g of t-butyldimethylchlorosilane are added thereto, 8.5 g of imidazole are then added portionwise and the mixture is left to stir for 17 hours. The reaction mixture is poured into 300 ml of water and extracted three times with 50 ml of diethyl ether. The combined organic phases are dried, filtered and evaporated. By distillation at 140°-145° C./0.07 mm there is obtained methyl (S)-3-(t-butyldimethylsiloxy)tetradecanoate as a colourless oil.

reactant | methyl (S)-3-hydroxytetradecanoate | 12.9 g | O[C@H](CC(=O)OC)CCCCCCCCCCC | C15H30O3
reactant | t-butyldimethylchlorosilane | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | imidazole | 8.5 g | N1C=NC=C1 | C3H4N2
reactant | water | 300 ml | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | methyl (S)-3-(t-butyldimethylsiloxy)tetradecanoate | O([Si](C)(C)C(C)(C)C)[C@H](CC(=O)OC)CCCCCCCCCCC | C21H44O3Si
